Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Right leg/foot pain
 
Major Surgical or Invasive Procedure:
___ Right lower extremity angiogram, angioJet mechanical 
thrombectomy of occluded bypass graft, balloon angioplasty of 
outflow stenosis. 
___ Right lower extremity angiogram, angioJet mechanical 
thrombectomy of occluded bypass graft, balloon angioplasty of 
outflow stenosis.  

 
History of Present Illness:
___ w Rt AK pop to ___ bypass with NRGSV for a thrombosed 
popliteal aneurysm in ___ present with worsening new onset 
right foot claudication. 
 
Past Medical History:
PMH: DVT R pop v (___), asthma, Rt pop artery thrombus with 
negative hypercoagulable workup  
 
PSH: Rt AK pop to ___ bypass with NRGSV ___  

 
Physical Exam:
Physical Exam:
Alert and oriented x 3 
VS:BP 104/54     HR   72     RR  16
Resp: Lungs clear
Abd: Soft, non tender
Ext: Pulses: palp throughout.     
Feet warm,  well perfused.  No open areas
Left  groin puncture site: Dressing clean dry and intact. Soft, 
no hematoma or ecchymosis.
 

 
Pertinent Results:
___ 05:45AM BLOOD WBC-9.0 RBC-3.91 Hgb-11.5 Hct-34.2 MCV-88 
MCH-29.4 MCHC-33.6 RDW-12.9 RDWSD-40.8 Plt ___
___ 05:45AM BLOOD Plt ___
___ 05:45AM BLOOD Glucose-108* UreaN-10 Creat-0.8 Na-141 
K-3.7 Cl-107 HCO3-26 AnGap-12
___ 05:45AM BLOOD Calcium-9.2 Phos-3.1 Mg-2.0

Arterial Duplex:
Findings.  Doppler evaluation was performed of both lower 
extremity arterial 
systems at rest. 
On the right the tibial waveforms are monophasic and there is no 
audible 
Waveforms are flat. 
The left all waveforms are triphasic.  The ankle-brachial index 
is 1.3. 
Impression severe ischemia right lower extremity 

 
Brief Hospital Course:
___ sp  Rt AK pop to ___ bypass with NRGSV ___ for arterial 
thrombosis presents with worsening right leg pain that occurred 
over predictable distances and acute change over past 24 hours 
with fullness in her right leg.  Her motor and
sensation are intact with no signs of limb threat.  A heparin 
infusion was started.

Arterial duplex showed occluded right popliteal to posterior 
tibial artery bypass. She was taken to the OR for right lower 
extremity angiogram, angioJet mechanical 
thrombectomy of occluded bypass graft, balloon angioplasty of 
outflow stenosis. A tpa catheter was left in place overnight.    
She return the next day for right lower extremity angiogram, 
angioJet mechanical thrombectomy of occluded bypass graft and 
balloon angioplasty of outflow stenosis.  At that session, we 
were able to remove residual thrombus in the native right 
popliteal artery and bypass with good outflow to the foot via 
the anterior tibial, and peroneal arteries.  At this point she 
was pain free with a palpable graft AT and DP pulse. 

The next morning,  we discontinued the heparin infusion and 
started xarelto.  She was ambulatory ad lib, voiding qs and 
tolerating a regular diet. She was discharged to home.   We will 
see her again in followup in one month with surveillance duplex.

 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clobetasol Propionate 0.05% Soln 1 Appl TP BID 
2. Fluocinolone Acetonide 0.01% Solution 1 Appl TP Q24H PRN 
3. metroNIDAZOLE 0.75  topical BID 
4. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
5. Lovastatin 10 mg ORAL DAILY 
6. Montelukast 10 mg PO DAILY 
7. Fluticasone-Salmeterol Diskus (500/50)  2 INH IH DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Aspirin 81 mg PO DAILY 
10. Loratadine 10 mg PO BID 

 
Discharge Medications:
1. Rivaroxaban 15 mg PO/NG BID 
FOR THE NEXT 3 WEEKS ONLY. 
RX *rivaroxaban [___] 15 mg 1 tablet(s) by mouth twice daily 
Disp #*42 Tablet Refills:*0
2. Clopidogrel 75 mg PO DAILY 
For the next ___ days. 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
3. metroNIDAZOLE 0.75  topical BID 
4. Fluocinolone Acetonide 0.01% Solution 1 Appl TP Q24H PRN 
5. Clobetasol Propionate 0.05% Soln 1 Appl TP BID 
6. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
7. Aspirin 81 mg PO DAILY 
8. Fluticasone-Salmeterol Diskus (500/50)  2 INH IH DAILY 
9. Loratadine 10 mg PO BID 
10. Montelukast 10 mg PO DAILY 
11. Pantoprazole 40 mg PO Q24H 
12. Rivaroxaban 20 mg PO DAILY 
Start ___ after loading dose of 15 mg twice daily.  
RX *rivaroxaban [___] 20 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*3
13. Lovastatin 10 mg ORAL DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral Arterial Disease
Right Posterior Tibial Deep Vein Thrombosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
It was a pleasure taking care of you at ___ 
___.  You were admitted to the hospital with right 
leg pain that we found was secondary to a blockage in your 
bypass graft. We also noted a clot in a vein in your calf.  We 
did a peripheral angiogram to open up the graft with special 
catheter and balloons.   To do the procedure, a small puncture 
was made in one of your arteries.  The puncture site heals on 
its own: there are no stitches to remove.   You tolerated the 
procedure well and are now ready to be discharged from the 
hospital.   Please follow the recommendations below to ensure a 
speedy and uneventful recovery.

Peripheral Angiography
Puncture Site Care
For one week:
•Do not take a tub bath, go swimming or use a Jacuzzi or hot 
tub.
•Use only mild soap and water to gently clean the area around 
the puncture site. 
•Gently pat the puncture site dry after showering. 
•Do not use powders, lotions, or ointments in the area of the 
puncture site. 

You may remove the bandage and shower the day after the 
procedure.  You may leave the bandage off. 
You may have a small bruise around the puncture site.  This is 
normal and will go away one-two weeks. 
Activity 
For the first 48 hours: 
•Do not drive for 48 hours after the procedure
For the first week:
•Do not lift, push , pull or carry anything heavier than 10 
pounds
•Do not do any exercises or activity that causes you to hold 
your breath or bear down with abdominal muscles.   Take care not 
to put strain on your abdominal muscles when coughing, sneezing, 
or moving your bowels.
After one week:
•You may go back to all your regular activities, including 
sexual activity.  We suggest you begin your exercise program at 
half of your usual routine for the first few days.   You may 
then gradually work back to your full routine.
Medications:
Before you leave the hospital, you will be given a list of all 
the medicine you should take at home.  If a medication that you 
normally take is not on the list or a medication that you do not 
take is on the list please discuss it with the team!  

 
Followup Instructions:
___